US04154935
A solution of 2-bromo-3,3,3-trifluoropropanoic acid (5 g.) in thionyl chloride (5 ml.) is refluxed in the steam bath for two hours. The excess thionyl chloride is removed in vacuo, and the residue distilled under reduced pressure to yield 2-bromo-3,3,3-trifluoropropanoic acid chloride.

reactant | 2-bromo-3,3,3-trifluoropropanoic acid | 5 g | BrC(C(=O)O)C(F)(F)F | C3H2BrF3O2
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-bromo-3,3,3-trifluoropropanoic acid chloride | BrC(C(=O)Cl)C(F)(F)F | C3HBrClF3O
